US06239147B1
(v) (1R)-Methoxy-1-methyl-1-trifluoromethyl-isochroman
To a stirred mixture of sodium hydride (3.47 g, 0.145 mol) in DMF (50 mL) was added (1R)-hydroxy-1-methyl-1-trifluoromethylisochroman (28.0 g, 0.121 mol) solution in DMF (370 mL) at 0° C., then the mixture was stirred at room temperature for 1 hr. The reaction mixture was quenched with water and diluted with saturated aqueous ammonium chloride. This was extracted with ethyl acetate-toluene (4:1). The organic fraction was washed with water and brine, and dried over magnesium sulfate. The solvent was removed in vacuo, the residue was purified by column chromatography on silica-gel eluted with hexane and ethyl acetate (40:1) to give the title compound as a colorless oil (29.1 g, 98%). The 1H-NMR spectra of this material was identical with that of racemate.

reactant | sodium hydride | 0.145 mol, 3.47 g | [H-].[Na+]
reactant | (1R)-hydroxy-1-methyl-1-trifluoromethylisochroman | 0.121 mol, 28.0 g | OC1O[C@](C2=CC=CC=C2C1)(C(F)(F)F)C | C11H11F3O2
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
reactant | DMF | 370 mL | CN(C)C=O | C3H7NO
product | (1R)-Methoxy-1-methyl-1-trifluoromethyl-isochroman | 29.1 g, 98% | COC1O[C@](C2=CC=CC=C2C1)(C(F)(F)F)C | C12H13F3O2
